US05068359
A mixture of 1.0 g (6.2 mmoles) of 7-benzothiophene-carbaldehyde, 0.4 g (6.8 mmoles) of cyanoacetic acid methyl ester, 0.07 g of ammonium acetate, 0.2 g of acetic acid, 1 g of molecular sieve (3 Å) and 10 ml of toluene are boiled under reflux for 4 hours, and then the reaction mixture is cooled and mixed with 20 ml of ethyl acetate and with 20 ml of 10% NaCl solution. The separated organic phase is dried with MgSO4, filtered and the solvent is evaporated in vacuo. 1.5 g of 2-cyano-3-(benzothiophen-7-yl)-acrylic acid methyl ester in the form of a crude product is obtained as residue.

reactant | 7-benzothiophene-carbaldehyde | 6.2 mmoles, 1.0 g | S1C=CC2=C1C(=CC=C2)C=O | C9H6OS
reactant | cyanoacetic acid methyl ester | 6.8 mmoles, 0.4 g | COC(CC#N)=O | C4H5NO2
reactant | ammonium acetate | 0.07 g | C(C)(=O)[O-].[NH4+]
reactant | NaCl | 20 ml | [Na+].[Cl-]
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 0.2 g | C(C)(=O)O | C2H4O2
product | 2-cyano-3-(benzothiophen-7-yl)-acrylic acid methyl ester | 1.5 g | COC(C(=CC1=CC=CC=2C=CSC21)C#N)=O | C13H9NO2S
